US05696276
Preparation of 2-(1-diphenylacetyloxy-4-methyl-3-pentenyl)-5,8-dihydroxy-1,4-naphthoquinone
288 mg (1 mmole) of shikonin, 226 mg (1.1 mmole) of dicyclohexylcarbodiimide and 30 mg (0.25 mmole) of 4-dimethylaminopyridine were dissolved in 3 ml of dry dichloromethane. To the resulting solution was added 212 mg (1 mmole) of diphenylacetic acid at 0° C. under nitrogen gas, and the mixture was stirred for 30 minutes and then at room temperature for further 3 hours. The resulting product was separated and purified according to the procedures as described in Example 1 to obtain 270 mg (Yield: 59%) of the title compound having the following structure as a red precipitate.

reactant | shikonin | 1 mmole, 288 mg | CC(=CC[C@H](C1=CC(=O)C=2C(=CC=C(C2C1=O)O)O)O)C | C16H16O5
reactant | dicyclohexylcarbodiimide | 1.1 mmole, 226 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | diphenylacetic acid | 1 mmole, 212 mg | C1(=CC=CC=C1)C(C(=O)O)C1=CC=CC=C1 | C14H12O2
catalyst | 4-dimethylaminopyridine | 0.25 mmole, 30 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 2-(1-diphenylacetyloxy-4-methyl-3-pentenyl)-5,8-dihydroxy-1,4-naphthoquinone | 270 mg, Yield: 59% | C1(=CC=CC=C1)C(C(=O)OC(CC=C(C)C)C=1C(C2=C(C=CC(=C2C(C1)=O)O)O)=O)C1=CC=CC=C1 | C30H26O6
